### PR TITLE
chore: golf proofs about merge

### PR DESCRIPTION
**Pull request by eric-wieser**
The lemmas this golfs are now unused, and could also be deleted.

### CODE REVIEW

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean [hunk 1]
```diff
@@ -63,6 +63,14 @@ section Correctness
 
 open List
 
+/-- Our merge computes the one already in mathlib. -/
+@[simp, grind =]
+theorem ret_merge (xs ys : List α) : ⟪merge xs ys⟫ = xs.merge ys := by
+  fun_induction merge
+  · simp
+  · simp
+  · grind [cons_merge_cons]
```
Comment (chenson2018) [inline Cslib/Algorithms/Lean/MergeSort/MergeSort.lean]: I usually try to stay consistent about using `simp` or `grind` when they are both just working with theorems that make sense as `@[simp, grind =]` attributes, e.g.

```suggestion
  · grind [nil_merge]
  · grind [merge_right]
  · grind [cons_merge_cons]
```
(If these were already annotated upstream I'd just write `fun_induction merge <;> grind`, but I don't think it's helpful when you are specifying theorems for different branches manually.)

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean [hunk 2]
```diff
@@ -177,16 +178,13 @@ theorem timeMergeSortRec_le (n : ℕ) : timeMergeSortRec n ≤ T n := by
 
 @[simp] theorem merge_ret_length_eq_sum (xs ys : List α) :
     ⟪merge xs ys⟫.length = xs.length + ys.length := by
-  fun_induction merge with
-  | case3 =>
-    grind
-  | _ => simp
+  simp
```
Comment (chenson2018) [inline Cslib/Algorithms/Lean/MergeSort/MergeSort.lean:173]: If you address the `simpNF` linter by removing `ret_merge`, this is the only affected proof that then becomes

```suggestion
  grind [List.length_merge]
```

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean
Comment (chenson2018) [inline Cslib/Algorithms/Lean/MergeSort/MergeSort.lean]: Seems like this should follow suit and be `grind [List.merge_perm_append]`

Comment (chenson2018) [inline Cslib/Algorithms/Lean/MergeSort/MergeSort.lean]: If golfing, this could just be `grind [Nat.clog_of_one_lt]`.

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean (hunk 1 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/MergeSort/MergeSort.lean]: I've combined onto one line.

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean (hunk 2 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/MergeSort/MergeSort.lean:173]: I think `ret_merge` is the better simp lemma, I've removed this one.
